US04052407
To the solution of 353 mg of 4-(6-carbomethoxyhexyl)-5-(3-hydroxy-1-trans-octenyl)-thiazole (Ic, R1 = H) in 4 ml of anhydrous pyridine, 1 ml of acetic anhydride was added. The reaction mixture was allowed to stand for 24 hours at room temperature, diluted with 50 ml of water and extracted with 3 × 15 ml of ethyl acetate. The ethyl acetate extract was washed with water, dried over sodium sulphate and evaporated under vacuum in vacuo. The obtained 390 mg of evaporation residue was purified by preparative thin layer chromatography, using a silica gel layer as adsorbent and a mixture of 40 % ethyl acetate and 60 % n-heptane as running solvent. Thus, 285 mg of 4-(6-carbomethoxyhexyl)-5-(3-acetoxy-1-trans-octenyl)-thiazole (Ie, R1 = H) of chromatographic purity were obtained.

reactant | 4-(6-carbomethoxyhexyl)-5-(3-hydroxy-1-trans-octenyl)-thiazole | 353 mg | C(=O)(OC)CCCCCCC=1N=CSC1\C=C\C(CCCCC)O | C19H31NO3S
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 4-(6-carbomethoxyhexyl)-5-(3-acetoxy-1-trans-octenyl)-thiazole | 285 mg | C(=O)(OC)CCCCCCC=1N=CSC1\C=C\C(CCCCC)OC(C)=O | C21H33NO4S
